US08039469B2
Preparation of 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(4-methylpiperazin-1-yl)piperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea
By reacting 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea.TFA (40 mg) and 1-methylpiperazine (0.050 mL) and following the procedure as outlined in example 118, the titled compound was isolated after HPLC purification as its tri-TFA salt; MS (ES+) 585.9 (M+H)+

reactant | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2CCC(CC2)=O)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C26H28N8O3
reactant | TFA | 40 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1-methylpiperazine | 0.050 mL | CN1CCNCC1 | C5H12N2
product | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(4-methylpiperazin-1-yl)piperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2CCC(CC2)N2CCN(CC2)C)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C31H40N10O2
